US09284308B2
tert-Butyl 4-(hydroxy(6-(trifluoromethyl)pyridin-3-yl)methyl)piperidine-1-carboxylate
A solution of isopropylmagnesium chloride (2.0 M in THF, 40.3 mL, 80.6 mmol) was added dropwise by syringe to a solution of 5-bromo-2-(trifluoromethyl)pyridine (19.5 g, 86.3 mmol) in dry THF (12 mL) at 2° C. After 30 minutes, tert-butyl 4-formylpiperidine-1-carboxylate (12.3 g, 57.3 mmol) was added to the Grignard solution at 2° C. as a solid. The reaction mixture was warmed to 10° C. over 1.5 hours after which it was quenched with saturated aqueous ammonium chloride solution. The mixture was partitioned between water and ethyl acetate. The separated aqueous phase was further extracted with ethyl acetate and washed with saturated aqueous NaCl solution. The organic phase was dried (MgSO4), filtered, and concentrated to afford the title compound which was used without further purification in the next step.

reactant | isopropylmagnesium chloride | 80.6 mmol, 2.0 M, 40.3 mL | C(C)(C)[Mg]Cl
reactant | 5-bromo-2-(trifluoromethyl)pyridine | 86.3 mmol, 19.5 g | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 57.3 mmol, 12.3 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(hydroxy(6-(trifluoromethyl)pyridin-3-yl)methyl)piperidine-1-carboxylate | OC(C1CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC(=CC1)C(F)(F)F | C17H23F3N2O3
